US06900215B2
A mixture of imidazo[1,2-α]pyrimidine-7-carboxylic acid amide (310 mg) and N,N-dimethylacetamide dimethylacetal (270 mg) was heated at reflux for 16 h then cooled to ambient temperature. The reaction was then partitioned between dichloromethane and water. The organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to give imidazo[1,2-α]pyrimidine-7-carboxylic acid [1-(N,N-dimethylamino)ethylidene]amide as a brown oil. This oil was dissolved in 70% aqueous acetic acid (120 ml) and 1,4-dioxane (60 ml). A solution of hydroxylamine in water (40 wt. %, 0.15 ml) was then added and the mixture heated at 100° C. for 2 h then cooled to ambient temperature. This reaction mixture was dissolved in 50% methanol in dichloromethane and pre-adsorbed onto silica. Purification on silica gel eluting with dichloromethane (+1% conc. ammonia) on a gradient of methanol (2-5%) gave 7-(3-methyl-[1,2,4]oxadiazol-5-yl)imidazo[1,2-α]pyrimidine as a yellow solid (110 mg, 29% over 2 steps): δH (360 MHz, DMSO) 2.43 (3H, s), 7.76 (1H, d, J 7), 8.02 (1H, d, J 1), 8.19 (1H, d, J 1), 9.22 (1H, d, J 7).

reactant | imidazo[1,2-α]pyrimidine-7-carboxylic acid amide | 310 mg | N=1C=CN2C1N=C(C=C2)C(=O)N | C7H6N4O
reactant | N,N-dimethylacetamide dimethylacetal | 270 mg | COC(C)(N(C)C)OC | C6H15NO2
product | imidazo[1,2-α]pyrimidine-7-carboxylic acid [1-(N,N-dimethylamino)ethylidene]amide | CN(C)C(C)=NC(=O)C1=NC=2N(C=C1)C=CN2 | C11H13N5O
